US05998436
Synthesis of ethyl 1-(4-amino-5-fluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate
To 150 mg of the mixture of ethyl 3-(4-amino-5-fluoropyridin-2-yl)amino-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate and ethyl 3-(2-amino-5-fluoropyridin-4-yl)amino-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate were added 230 mg of anhydrous potassium carbonate and 450 mg of N,N-dimethylformamide, and the mixture was stirred at 100° C. for 20 minutes and allowed to cool. The solution was separated by adding 20 ml of chloroform and 100 ml of distilled water, and the chloroform layer was washed with 100 ml of distilled water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to column chromatography (silica gel, 3.2 g; eluent: chloroform:methanol, 100:1), and the fraction containing the main product was concentrated under reduced pressure to obtain 35 mg of the title compound as a yellow solid residue.

reactant | ethyl 3-(4-amino-5-fluoropyridin-2-yl)amino-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate | NC1=CC(=NC=C1F)NC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)Cl)F)=O | C17H12ClF4N3O3
reactant | ethyl 3-(2-amino-5-fluoropyridin-4-yl)amino-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate | NC1=NC=C(C(=C1)NC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)Cl)F)=O)F | C17H12ClF4N3O3
reactant | potassium carbonate | 230 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 450 mg | CN(C=O)C | C3H7NO
product | ethyl 1-(4-amino-5-fluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 35 mg | NC1=CC(=NC=C1F)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)OCC | C17H11ClF3N3O3
